.include "lelo_generated.spice"

VSS VSS 0 dc 0
VDD VDD 0 dc 1.8
VIN VIN 0 dc 1.0 ac 1

XDUT VOUT VSS VDD VIN LELO_EX1

.save all

.control
set filetype=ascii
op
write op.raw
ac dec 100 1 1e9
write ac.raw
quit
.endc

.end
